US05852017
d) 6-Chloro-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione
101.3 g (0.28 mol) of ethyl N-(4-chloro-2-nitrophenyl)-N-(ethoxycarbonylmethyl)oxamate were dissolved in 1 l of acetic acid and heated to 80° C. Then 15.8 g (0.28 mol) of iron powder were added a little at a time. After 2 h, a further 15.8 g (0.28 mol) of iron powder were added. Half an hour later, the mixture was poured into ice-water and acidified with 4M hydrochloric acid. The precipitate was filtered off with suction to yield 75.7 g (95%) of the product.

reactant | ethyl N-(4-chloro-2-nitrophenyl)-N-(ethoxycarbonylmethyl)oxamate | 0.28 mol, 101.3 g | ClC1=CC(=C(C=C1)N(C(C(=O)OCC)=O)CC(=O)OCC)[N+](=O)[O-] | C14H15ClN2O7
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
catalyst | iron | 0.28 mol, 15.8 g | [Fe] | Fe
catalyst | iron | 0.28 mol, 15.8 g | [Fe] | Fe
product | 6-Chloro-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 75.7 g, 95% | ClC=1C=C2NC(C(N(C2=CC1)CC(=O)OCC)=O)=O | C12H11ClN2O4
